US06414149B1
Step F: (R)-1-[4-(2-Methyl-4-phenyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidin-7-yl)-pyrimidin-2-yl]-ethanol
To a solution of (R)-1-[4-(2-methyl-4-phenyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidin-7-yl)-pyrimidin-2-yl]-ethyl butyrate (prepared according to the method of Example 86, Step E, 11.0 g, 26.4 mmol) in dioxane (13 mL) was added concentrated hydrochloric acid (22 mL, 264 mmol). This mixture was stirred at room temperature overnight, cooled to 0° C., neutralized via slow addition of 6 N aqueous sodium hydroxide, and extracted with ethyl acetate (4×). The combined organic extracts were dried over sodium sulfate, filtered, evaporated, and purified by flash column chromatography (2→5% methanol/ethyl acetate) to give an oil which after tritration with hexanes provided 8.0 g (88%) of the title compound as a white solid. mp: 114-116° C.; 1H NMR (CD3OD, 250 MHz) δ8.26 (d, 1H), 7.62-7.47 (c, 5H), 6.52 (d, 1H), 4.79 (s, 2H), 4.66 (q, 1H), 4.24 (br s, 1H), 3.90-3.80 (c, 2H), 2.95 (t, 2H), 2.70 (s, 3H), 1.49 (d, 3H); MS (APCI) 348 (MH+), [α]D +15.6 (c 1.0, MeOH).

reactant | (R)-1-[4-(2-methyl-4-phenyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidin-7-yl)-pyrimidin-2-yl]-ethyl butyrate | C(CCC)(=O)O[C@H](C)C1=NC=CC(=N1)N1CC=2N=C(N=C(C2CC1)C1=CC=CC=C1)C | C24H27N5O2
reactant | hydrochloric acid | 264 mmol, 22 mL | Cl | ClH
reactant | sodium hydroxide | 6 N | [OH-].[Na+]
solvent | dioxane | 13 mL | O1CCOCC1 | C4H8O2
product | (R)-1-[4-(2-Methyl-4-phenyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidin-7-yl)-pyrimidin-2-yl]-ethanol | 8.0 g, 88% | CC=1N=C(C2=C(N1)CN(CC2)C2=NC(=NC=C2)[C@@H](C)O)C2=CC=CC=C2 | C20H21N5O
